US04404214
0.48 g of 6-methoxy-2-pyridinecarboxylic acid, 0.51 g of N,N'-carbonyldiimidazole and 0.29 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide, water and ethanol, whereby 0.32 g of N-(5-tetrazolyl)-6-methoxy-2-pyridinecarboxamide is obtained.

reactant | 6-methoxy-2-pyridinecarboxylic acid | 0.48 g | COC1=CC=CC(=N1)C(=O)O | C7H7NO3
reactant | 5-aminotetrazole | 0.29 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-6-methoxy-2-pyridinecarboxamide | 0.32 g | N1N=NN=C1NC(=O)C1=NC(=CC=C1)OC | C8H8N6O2
